US03960783
B. 2-Diphenylamino-4,6-Bis(N-Cyanoanilino)-s-Triazine (DPNCT)
To a solution of 31.7g (0.10 mole) of a 2-diphenylamino-4,6-dichloro-s-triazine in 325 ml of acetone at room temperature was added dropwise to a solution of 0.20 mole of sodium phenylcyanamide in 100 ml of water over a 30 minute period. After stirring for 1 hour at room temperature, the reaction mixture was heated at reflux overnight. After cooling the reaction mixture was filtered. The residue was washed with water, acetone and dried to give 25.5g of crude product. Recrystallization from 1500 ml of acetonitrile gave 20.9g of pure DPNCT, m.p. 280°-284°.

reactant | 2-diphenylamino-4,6-dichloro-s-triazine | 0.10 mole, 31.7g | C1(=CC=CC=C1)N(C1=NC(=NC(=N1)Cl)Cl)C1=CC=CC=C1 | C15H10Cl2N4
reactant | sodium phenylcyanamide | 0.20 mole | C1(=CC=CC=C1)NC#N.[Na]
solvent | acetone | 325 ml | CC(=O)C | C3H6O
solvent | water | 100 ml | O | H2O
product | 2-Diphenylamino-4,6-Bis(N-Cyanoanilino)-s-Triazine | 25.5g | C1(=CC=CC=C1)N(C1=NC(=NC(=N1)N(C1=CC=CC=C1)C#N)N(C1=CC=CC=C1)C#N)C1=CC=CC=C1 | C29H20N8
